US04028344
Preparation of N-[1-(t-Butylazo)cyclohexyl]-N'-cyclohexylthiourea
To 8.4 grams (0.0363 moles) of 1-t-butylazo-1-isothiocyanatocyclohexane stirred with a magnetic stirrer in a 50 ml erlenmeyer flask was added 3.6 grams (0.0363 moles) of cyclohexylamine at room temperature. A solid slowly started to form and pentane was added to keep the reaction mixture from solidifying and the reaction mixture was stirred for 3 hours and the pentane stripped off to leave a yellow solid weighing 11.4 grams (95% crude yield). The product melted at 100°-102° C. and the infrared spectrum of the product had a strong broad band at 1520-1540 cm-1 and a NH band at 3220 cm-1. The isothiocyanate band at 2040 cm-1 was absent.

reactant | 1-t-butylazo-1-isothiocyanatocyclohexane | 0.0363 moles, 8.4 grams | C(C)(C)(C)N=NC1(CCCCC1)N=C=S | C11H19N3S
reactant | cyclohexylamine | 0.0363 moles, 3.6 grams | C1(CCCCC1)N | C6H13N
reactant | isothiocyanate | [N-]=C=S
solvent | pentane | CCCCC | C5H12
product | N-[1-(t-Butylazo)cyclohexyl]-N'-cyclohexylthiourea | C(C)(C)(C)N=NC1(CCCCC1)NC(=S)NC1CCCCC1 | C17H32N4S
